Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
citalopram
 
Attending: ___.
 
Chief Complaint:
"I just got stuck."
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ year old woman with a
self-reported history depression and PTSD and history of
psychosis and paranoia found on chart review who self-presented
to the ___ ED due to depressive symptoms.

She reports symptoms of depressed mood, decreased interest in
leisure activities, poor concentration, low energy, psychomotor
retardation, and increasing social isolation because of these
symptoms. In addition to these symptoms she reports recent
history of passive suicidal ideation. She reports several
traumatic relationships (verbal and emotional abuse, no physical
or sexual abuse) in the past including tense relationship with
former employer, previous teachers, and her father. She states
that these people were all "bipolar" which is why they were so
abusive. She knows they are "bipolar" because they have volatile
moods which is "normal for them" but not normal for the general
population and led to the verbal attacks against her.

Prior to admission she had tried to treat her depression on her
own with meditation and eating healthier but found this was not
enough for her symptoms.

On arrival to the unit the patient denied suicidal ideation or
thoughts of self-harm. She is hopeful that treatment will help
improve her depressive symptoms and allow her to interact with
others without anxiety. Her hopes are tempered by past 
treatments
and hospitalizations that she did not find helpful.
 
Psych ROS: As per HPI. Patient reports no active SI. When asked
about passive SI she did not give a direct answer. Denies
symptoms consistent with mania (grandiosity, elevated mood,
decreased need for sleep) or psychosis (auditory/visual
hallucinations, delusions).

ED Course: The patient was calm and cooperative while in the ED
and did not require physical restraints.
 
Past Medical History:
PAST PSYCHIATRIC HISTORY: Per Dr. ___ (___),
confirmed with patient and updated as relevant:
Hospitalizations: 
- Age ___ in ___ after suicide attempt (overdose)
- ___: at ___ in ___ after being fired
- ___: chart review reveals one at ___ 
Current treaters and treatment: 
- None. Has not seen a Psychiatrist in ~ ___ years.
Medication and ECT trials: 
- Celexa in ___, Wellbutrin "a couple of years later," and
Wellbutrin plus Risperdal "a couple of years after that." Denies
adverse effects with these but states that they did not help 
her.
Self-injury: attempted OD on unknown pills at age ___ in ___
Harm to others: denies
Access to weapons: denies

PAST MEDICAL HISTORY: Per Dr. ___ (___), 
confirmed
with patient and updated as relevant:
- Hyperlipidemia (not on medication currently, previously used a
Statin. Patient does not believe this is an active issue).
 
Social History:
SUBSTANCE USE HISTORY:
- Denies substance abuse, tobacco use, or illicit drug use.

FORENSIC HISTORY: ___
PERSONAL AND SOCIAL HISTORY: ___
Family History:
FAMILY PSYCHIATRIC HISTORY: Per Dr. ___ (___),
confirmed with patient and updated as relevant:
- Patient reports her parents are both "Bipolar" and did not
receive treatment.

 
Physical Exam:
- General: Middle-aged female in ___. Obese, appears stated age,
wearing hospital gown.
- HEENT: EOMI
- Back: No significant deformity. No CVA tenderness
- Lungs: CTA ___. No crackles, wheezes, or rhonchi.
- CV: RRR, no murmurs/rubs/gallops. 
- Abdomen: +BS, soft, nontender, nondistended. No palpable 
masses
or organomegaly.
- Extremities: Mild swelling of the left index finger with
overlaying dry skin. Full ROM in all fingers.
- Skin: No rashes, abrasions, scars, or lesions.

Neurological:
- Motor: Normal bulk and tone bilaterally. No abnormal 
movements,
no tremor, no asterixis
- Strength: ___ throughout.
- Sensation: Intact to light touch throughout. 
- Gait: Steady. Normal stance and posture. No truncal ataxia.
- Romberg: Negative.

 
Pertinent Results:
___ 01:48PM   GLUCOSE-109* UREA N-12 CREAT-0.9 SODIUM-137 
POTASSIUM-4.4 CHLORIDE-103 TOTAL CO2-22 ANION GAP-16
___ 01:48PM   TSH-1.6
___ 01:48PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 01:48PM   WBC-6.3 RBC-4.65 HGB-13.5 HCT-40.8 MCV-88 
MCH-29.0 MCHC-33.1 RDW-13.2 RDWSD-42.0
___ 01:48PM   NEUTS-66.4 ___ MONOS-5.9 EOS-0.5* 
BASOS-0.8 IM ___ AbsNeut-4.18 AbsLymp-1.64 AbsMono-0.37 
AbsEos-0.03* AbsBaso-0.05
___ 01:48PM   PLT COUNT-291
___ 01:45PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 01:45PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-NEG
___ 01:45PM URINE  RBC-2 WBC-<1 BACTERIA-NONE YEAST-NONE 
EPI-<1
___ 01:45PM URINE  MUCOUS-OCC
 
Brief Hospital Course:
SAFETY: Patient was placed on 15 minute checks on admission and 
remained here on that level of observation throughout. She was 
unit restricted. There were no acute safety issues during this 
hospitalization.
 
LEGAL: ___
DSM5 Diagnosis:
Bipolar disorder with psychotic features
versus schizoaffective disorder
 
PSYCHIATRIC:
#Depression and paranoid thinking:
___ is a ___ year-old woman with a documented
chronic history of paranoid thinking, leading to job loss and
social isolation, and provider concerns for bipolar disorder vs.
psychotic disorder (per chart review), who self-presented to the
___ ED due to worsening depressive symptoms and passive SI. 
The
patient's initial symptoms included depressed mood, hypersomnia,
poor concentration, hopelessness, anhedonia, and passive 
suicidal
ideation. No reported substance use or manic symptoms. Patient 
was started on Seroquel, which was uptitrated to 300 mg QHS. 
Initially, she tended to stay in her room all day but with 
encouragement began to attend more groups and participate in the 
dayroom. Despite consistent encouragement, she refused family 
meetings or outreach to family/friends by phone. There were 
initial concerns about a lack of interest in self-care (not 
showering), but by the time of discharge, patient was more put 
together and displayed appropriate hygiene. Throughout her 
hospitalization, her exam was notable for slightly pressured 
speech, improved mood with mostly
euthymic affect, circumstantial thought process, and paranoid
thinking (about family and past employers/colleagues). She 
denied
active SI/HI or thoughts about self-harm and denied any 
auditory/visual hallucinations. There were no issues with 
medication adherence. She felt that Seroquel was very helpful in 
improving her mood and did not want to switch to any other 
antipsychotics. She is hopeful about the future with regards to 
finding work, continuing meds, and following-up with outpatient 
providers. At the moment of discharge, patient became upset 
about her diagnosis (bipolar with psychotic features versus 
schizoaffective). She stated that she thought her problems were 
more related to depression, trauma, and family problems and 
began to list celebrities who she believes are bipolar and 
explain how she is not like them. Patient was reassured that 
this is a working diagnosis that will be further investigated 
and updated as necessary by her outpatient providers. 
 
MEDICAL:
# Hyperlipidemia: 
Previously on a statin; not on one now. Patient will follow-up 
with PCP, ___.
 
PSYCHOSOCIAL:
#) GROUPS/MILIEU: Patient was encouraged to participate in 
unit’s groups, milieu, and therapy opportunities. Usage of 
coping skills, mindfulness, and relaxation methods were 
encouraged. Therapy addressed family, social, work, and housing 
issues. The patient participated in some of the groups 
throughout her hospitalization. 
 
#) COLLATERAL CONTACTS:
-Treaters- PCP, ___ 
-___
-Family/Friends- Patient refused to allow treatment team to 
contact family 
 
#) FAMILY INVOLVEMENT:
Despite ongoing encouragement from the treatment team, patient 
refused family meetings or outreach to family/friends by phone. 
 
#) INTERVENTIONS:
-Pharmacotherapy- Seroquel, uptitrated to 300 mg QHS to good 
effect
-Individual/group/milieu therapy- Encouraged daily
-Social work involvement- Seen by SW consistently; offered to 
set family meetings and contact family/friends
-___ planning- Set up with new psychiatrist/therapist and 
new appointment with previous PCP (Dr. ___
 
INFORMED CONSENT:
-Seroquel 

The Team discussed the indications for, intended benefits of, 
and possible side effects and risks of this medication, and 
risks and benefits of possible alternatives, including not 
taking the medication, with this patient.  We discussed the 
patient's right to decide whether to take this medication as 
well as the importance of the patient's actively participating 
in the treatment and discussing any questions about medications 
with the treatment team, and I answered the patient's questions. 
 The patient appeared able to understand and consented to begin 
the medication. 
 
RISK ASSESSMENT:
Low imminent risk of harm/violence to self/others.
 
#) Chronic/Static Risk Factors:
Chronic mental illness, unemployment (several years), not 
married, living alone
 
#) Modifiable Risk Factors:
-Acute major mood episode- Modified by medication adjustments as 
described above; no SI/HI or AVH throughout hospitalization
-Limited outpatient/social support- Patient was connected to a 
new psychiatrist/therapist. Team contacted previous PCP and set 
up a close follow-up appointment. 
-Sense of isolation- Patient was encouraged to reach out to 
family/friends, but she refused. However, she has extensive 
outpatient follow-up as described above. 
 
#) Protective Factors:
Protective factors include outpatient providers/treatment, 
skills in problem solving, conflict resolution and handling 
problems in a non-violent way, financial assistance through 
social security benefits, medication adherence, future-oriented. 
 
 
PROGNOSIS:
Fair. Current risk is low for intentional self-harm given that 
patient denies suicidal ideation, intent and plan, is accepting 
of treatment, is currently sober and is future oriented with 
plans. Patient has a history of depressed mood and paranoid 
thoughts about family/friends and previous employers/colleagues 
that have led to social isolation, unemployment, and lack of 
psychiatric/medical follow-up. She did well on the unit: 
experienced improved mood, interacted well with other patients 
and staff on the unit, and was adherent with medications. 
Unfortunately, she refused family/friend outreach or involvement 
in her care, which should be further encouraged by outpatient 
providers. She will require close outpatient follow-up, which 
has been arranged (outpatient psychiatry/therapy and primary 
care). 
 
Medications on Admission:
None
 
Discharge Medications:
1. QUEtiapine extended-release 300 mg PO QHS 
RX *quetiapine [Seroquel XR] 300 mg 1 tablet(s) by mouth at 
bedtime Disp #*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bipolar with psychotic features 
versus schizoaffective disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

Mental Status Exam:
*Appearance: Overweight woman who appears older than stated
age, wearing casual clothes (jeans and long-sleeve blue 
t-shirt),
combed hair, no acute distress. 
  Behavior: Fair eye contact, cooperative. 
  *Mood and Affect: 'Okay'/ Mostly euthymic, minimal smiling. 
  *Speech: Fluent in ___ with ___ accent. Slightly
pressured. Normal volume, rhythm, articulation, prosody. 
  *Thought process: Circumstantial. No loosening of 
associations.
  *Thought Content: Perseverates on certain topics 
(family/previous employers being 'bipolar,' meditation, and her 
'inner world') and difficult to redirect at times. Denies SI/HI 
and AVH. 
  *Judgment and Insight: Fair/Limited. Chronic paranoid ideas 
about
those around her, leading to social isolation and lack of
medical/psychiatric follow-up. However, no acute safety concerns
and no evidence of impulsive behaviors. Additionally, patient is
hopeful about the future and aftercare plans.  
  *Cognition: AAOx3. Memory intact to recent/remote history.
Attentive throughout interview. 

 
Discharge Instructions:
You were hospitalized at ___ for depressed mood and suicidal 
ideation.  We adjusted your medications, and you are now ready 
for discharge with extensive aftercare (psychiatry, therapy, 
PCP).

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

It was a pleasure to have worked with you, and we wish you the 
best of health.

 
Followup Instructions:
___